US04264599
2 drops of trifluoroacetic acid are added to a solution of 62 g of 3-(3-methoxy-2-pyridyloxy)-1,2-propanediol in 350 ml of triethyl orthoacetate and the mixture is left to stand for 3 hours at 20°-30°. On evaporation, crude 2-ethoxy-5-(3-methoxy-2-pyridyloxymethyl)-2-methyl-1,3-dioxolane is obtained in the form of an oil, which is used without purification.

reactant | 3-(3-methoxy-2-pyridyloxy)-1,2-propanediol | 62 g | COC=1C(=NC=CC1)OCC(CO)O | C9H13NO4
catalyst | trifluoroacetic acid | 2 drops | FC(C(=O)O)(F)F | C2HF3O2
solvent | triethyl orthoacetate | 350 ml | C(C)(OCC)(OCC)OCC | C8H18O3
product | 2-ethoxy-5-(3-methoxy-2-pyridyloxymethyl)-2-methyl-1,3-dioxolane | C(C)OC1(OC(CO1)COC1=NC=CC=C1OC)C | C13H19NO5
